US07569706B2
A toluene solution of Mitsunobu reagent (diethyl azodicarboxylate) (1.106 g/ml, 8.2 mmol, 1.29 ml) was gradually added to a tetrahydrofuran solution (25 ml) of triphenylphosphine (2.15 g, 8.2 mmol) at −78° C. To the thus obtained solution, a tetrahydrofuran solution (5 ml) of (2-hydroxyethyl)carbamic acid tert-butyl ester (1.32 g, 8.2 mmol) and maleimide (794 mg, 8.2 mmol) was added, followed by stirring at −78° C. for 5 minutes and further stirring at room temperature for 36 hours. The thus obtained reaction solution was concentrated, ether was added thereto, and the formed precipitate was removed by filtration. The thus obtained filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give 2-(maleimido)ethylcarbamic acid tert-butyl ester (531 mg, 2.53 mmol, yield 31%).

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | triphenylphosphine | 8.2 mmol, 2.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-hydroxyethyl)carbamic acid tert-butyl ester | 8.2 mmol, 1.32 g | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
reactant | maleimide | 8.2 mmol, 794 mg | C1(C=CC(N1)=O)=O | C4H3NO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-(maleimido)ethylcarbamic acid tert-butyl ester | 2.53 mmol, 531 mg, yield 31% | C(C)(C)(C)OC(NCCN1C(C=CC1=O)=O)=O | C11H16N2O4
